US04564714
As the concentration of sulfuryl chloride increases, over-chlorination occurs, i.e., the 2,4,5-trichlorophenol becomes chlorinated to form more 2,3,4,6-tetrachlorophenol. The 2,3,4,6-tetrachlorophenol present becomes unacceptably high when the ratio of sulfuryl chloride to dichlorophenol significantly exceeds 1.3 to 1.

reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2,4,5-trichlorophenol | ClC1=C(C=C(C(=C1)Cl)Cl)O | C6H3Cl3O
product | 2,3,4,6-tetrachlorophenol | ClC1=C(C(=CC(=C1Cl)Cl)Cl)O | C6H2Cl4O
